US09314468B2
Preparation of (S)-1-morpholino-2-(1(((3-(piperazin-1-yl)propyl)(5,6,7,8-tetrahydroquinolin-8-yl)amino)methyl)9H-pyrido[3,4-b]indol-9-yl)ethanone.
0.50 mmol of (S)-tert-butyl 4-(3-(((9-(2-morpholino-2-oxoethyl)-9H-pyrido[3,4-b]indol-1-yl)methyl)(5,6,7,8-tetrahydroquinolin-8-yl)amino)propyl)piperazine-1-carboxylate was dissolved in 2 ml of dichloromethane and treated with 2 ml of trifluoroacetic acid. After the reaction was stirred at ambient temperature for 2 hours it was cooled to 0° C. with ice bath and then neutralized with 1M NaOH solution carefully. Let the mixture warmed up to room temperature. The organic layer was separated, dried over magnesium sulfate, filtered off, and evaporated. The desired product was purified with column chromatography using dichloromethane:methanol:NH4OH (9:1:0.1). ESI+ MS: m/z (rel intensity) 582.3 (100, [M+H]+). 1H-NMR (400 MHz, CDCl3): δ 8.31 (d, 1H, J=5.6 Hz), 8.28 (d, 1H, J=4.8 Hz), 8.11 (d, 1H, J=9.2 Hz), 7.89 (d, 1H, J=5.2 Hz), 7.57 (t, 1H, J=6.8 Hz), 7.32-7.25 (m, 5H), 6.94 (dt, 1H, J=2.8, 4.8 Hz), 5.67 (d, 1H, J=16.4 Hz), 4.37 (s, 2H), 4.14 (t, 1H, J=9.2 Hz), 4.05 (d, 1H, J=16.8 Hz), 3.93 (d, 1H, J=14.8 Hz), 3.83-3.76 (m, 1H), 3.72-3.47 (m, 4H), 3.45-3.30 (m, 1H), 3.29-3.26 (m, 1H), 2.88-2.51 (m, 6H), 2.41-2.32 (m, 2H), 2.11-2.02 (m, 2H), 1.90-1.59 (m, 8H), 1.02-0.96 (m, 1H), 0.95-0.80 (m, 1H). Elemental Analysis (C/H/N): C34H43N2O2×0.95 mol H2O; Calculated: 68.19/7.56/16.37. Found: 68.18/7.38/16.23.

reactant | (S)-tert-butyl 4-(3-(((9-(2-morpholino-2-oxoethyl)-9H-pyrido[3,4-b]indol-1-yl)methyl)(5,6,7,8-tetrahydroquinolin-8-yl)amino)propyl)piperazine-1-carboxylate | 0.50 mmol | O1CCN(CC1)C(CN1C2=C(C3=CC=CC=C13)C=CN=C2CN(CCCN2CCN(CC2)C(=O)OC(C)(C)C)[C@H]2CCCC=1C=CC=NC21)=O | C39H51N7O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1M | [OH-].[Na+]
reactant | H2O | 0.95 mol | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-1-morpholino-2-(1(((3-(piperazin-1-yl)propyl)(5,6,7,8-tetrahydroquinolin-8-yl)amino)methyl)9H-pyrido[3,4-b]indol-9-yl)ethanone | O1CCN(CC1)C(CN1C2=C(C3=CC=CC=C13)C=CN=C2CN([C@H]2CCCC=1C=CC=NC21)CCCN2CCNCC2)=O | C34H43N7O2
